US05885986
A solution of 14.0 g (0.0356 mol) of methyl (S)-2-(7-chloro-5-methyl-6-oxo-5,6-dihydro-4H-imidazo[1,5-a][1,4]-benzodiazepin-3-ylcarbonylamino)-3-hydroxy-propionate in 250 ml of tetrahydrofuran was treated while gassing with argon with 9.3 g (0.0392 mol) of methoxycarbonylsulphamoyl-triethylammonium hydroxide internal salt (Burgess reagent) according to the method described in Tert. Letters 1992, 33, 907. The mixture was boiled at reflux for 3 1/2 hrs. and completely freed from the solvents. The residue was partitioned between dichloromethane and water, extracted and chromatographed over silica gel with ethyl acetate/ethanol 19:1 as the eluent. There were obtained 6.80 g (51%) of methyl (S)-2-(7-chloro-5-methyl-6-oxo-5,6-dihydro-4H-imidazo[l,5-a][1,4]benzodiazepin-3-yl)-4,5-dihydrooxazole-4-carboxylate as white crystals; m.p. 216°-218°.

reactant | methyl (S)-2-(7-chloro-5-methyl-6-oxo-5,6-dihydro-4H-imidazo[1,5-a][1,4]-benzodiazepin-3-ylcarbonylamino)-3-hydroxy-propionate | 0.0356 mol, 14.0 g | ClC1=CC=CC2=C1C(N(CC=1N2C=NC1C(=O)N[C@H](C(=O)OC)CO)C)=O | C17H17ClN4O5
reactant | methoxycarbonylsulphamoyl-triethylammonium hydroxide | 0.0392 mol, 9.3 g | [OH-].COC(=O)NS(=O)(=O)[N+](CC)(CC)CC
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
product | methyl (S)-2-(7-chloro-5-methyl-6-oxo-5,6-dihydro-4H-imidazo[l,5-a][1,4]benzodiazepin-3-yl)-4,5-dihydrooxazole-4-carboxylate | 6.80 g, 51% | ClC1=CC=CC2=C1C(N(CC=1N2C=NC1C=1OC[C@H](N1)C(=O)OC)C)=O | C17H15ClN4O4
